US06951934B2
1.62 mL (3 eq.) of benzyl alcohol and 130 μL (0.1 eq.) of TESOTf are added to 3.07 g (1 eq.) of 2-O-acetyl-3-O-allyl-4,6-di-O-benzyl-α-D-gluco-pyranosyl trichloroacetimidate (M=586.5) in 25 mL of dichloromethane at 0° C. in the presence of 2.5 g of 4 Å molecular seives. After 1 hour of reaction at 0° C., the medium is neutralised with triethylamine, filtered and concentrated. Purification over silica gel [flash; eluent: toluene/ethyl acetate (98/2; v/v)] enables isolating 2.52 g of benzyl 2-O-acetyl-3-O-allyl-4,6-di-O-benzyl-β-D-glucopyranoside (M=532).

reactant | benzyl alcohol | 1.62 mL, 3 eq. | C(C1=CC=CC=C1)O | C7H8O
reactant | TESOTf | 130 μL, 0.1 eq. | [Si](CC)(CC)(CC)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | 2-O-acetyl-3-O-allyl-4,6-di-O-benzyl-α-D-gluco-pyranosyl trichloroacetimidate | 3.07 g, 1 eq. | ClC(C(O[C@@H]1[C@H](OC(C)=O)[C@@H](OCC=C)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1)=N)(Cl)Cl | C27H30Cl3NO7
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | benzyl 2-O-acetyl-3-O-allyl-4,6-di-O-benzyl-β-D-glucopyranoside | 2.52 g, Yield (%)=91 | C(C)(=O)O[C@H]1[C@H](OCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1OCC=C)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C32H36O7
